US09278985B2
Methyl 4-amino-3-chloro-6-(7-chlorobenzofuran-4-yl)-5-fluoropicolinate (Compound No. 2.16)
Combined potassium fluoride (0.365 g, 6.28 mmol), diacetoxypalladium (0.047 g, 0.209 mmol), and 2-(7-chlorobenzofuran-4-yl)-5,5-dimethyl-1,3,2-dioxaborinane (0.609 g, 2.301 mmol), sodium 3,3′,3″-phosphinetriyltribenzenesulfonate tetrahydrate (0.134 g, 0.209 mmol), methyl 4-amino-3,6-dichloro-5-fluoropicolinate (0.5 g, 2.092 mmol). Added water (3 mL) and acetonitrile (1 mL). Heated reaction mixture at 150° C. in a microwave reactor for 6 minutes. Diluted cooled reaction mixture with ethyl acetate and water and filtered through cotton plug. Dried organic phase (Na2SO4) and concentrated under vacuum. Purified by reverse phase chromatography to provide the title compound as a white solid (127 mg, 12.5% yield).

reactant | potassium fluoride | 6.28 mmol, 0.365 g | [F-].[K+]
reactant | 2-(7-chlorobenzofuran-4-yl)-5,5-dimethyl-1,3,2-dioxaborinane | 2.301 mmol, 0.609 g | ClC1=CC=C(C=2C=COC21)B2OCC(CO2)(C)C | C13H14BClO3
reactant | sodium 3,3′,3″-phosphinetriyltribenzenesulfonate tetrahydrate | 0.209 mmol, 0.134 g | O.O.O.O.P(C=1C=C(C=CC1)S(=O)(=O)[O-])(C=1C=C(C=CC1)S(=O)(=O)[O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | methyl 4-amino-3,6-dichloro-5-fluoropicolinate | 2.092 mmol, 0.5 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)Cl | C7H5Cl2FN2O2
catalyst | diacetoxypalladium | 0.209 mmol, 0.047 g | C(C)(=O)O[Pd]OC(C)=O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | 3 mL | O | H2O
product | Methyl 4-amino-3-chloro-6-(7-chlorobenzofuran-4-yl)-5-fluoropicolinate | 127 mg, 12.5% yield | NC1=C(C(=NC(=C1F)C1=CC=C(C2=C1C=CO2)Cl)C(=O)OC)Cl | C15H9Cl2FN2O3
